US07700628B2
Preparation of N-(2-Chloro-4-nitrophenyl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide
Using methods substantially equivalent to those described in Example 118, N-(2-chloro-4-nitrophenyl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide trifluoroacetate was prepared from 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one and 2-chloro-4-nitroaniline.

reactant | N-(2-chloro-4-nitrophenyl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide trifluoroacetate | FC(C(=O)O)(F)F.ClC1=C(C=CC(=C1)[N+](=O)[O-])NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O)=O
reactant | 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 2-chloro-4-nitroaniline | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
product | N-(2-Chloro-4-nitrophenyl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide | ClC1=C(C=CC(=C1)[N+](=O)[O-])NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O)=O | C30H31ClFN5O5
